US07208513B2
A. 1-(5-(1H-1,2,4-Triazol-3-yl)-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl)-3-(2-methoxyethoxy)benzene
The title compound was prepared from 3-(5-(1H-1,2,4-triazol-3-yl)-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenol (0.401 g, 0.66 mmol), triphenyl phosphine (0.709 g, 2.70 mmol), diethyl azodicarboxylate (0.43 mL, 2.70 mmol), 2-methoxyethanol (0.21 mL, 2.70 mmol) in tetrahydrofuran (2.6 mL) and was allowed to stir at room temperature overnight. The product was diluted with ethyl acetate and washed with sodium bicarbonate (saturated aqueous). These layers were partitioned and the aqueous layer was extracted with ethyl acetate (2×). Organic fractions were combined, dried with sodium sulfate, filtered, and condensed. The compound was successful purified by column chromatography (SiO2, 30% ethyl acetate in hexanes). The crude intermediate was used without further purification: ES-MS (m/z) 420 [M+1]+.

reactant | 3-(5-(1H-1,2,4-triazol-3-yl)-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenol | 0.66 mmol, 0.401 g | N1N=C(N=C1)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C=CC1)O | C20H19N5O2
reactant | triphenyl phosphine | 2.70 mmol, 0.709 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.70 mmol, 0.43 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-methoxyethanol | 2.70 mmol, 0.21 mL | COCCO | C3H8O2
reactant | tetrahydrofuran | 2.6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(1H-1,2,4-Triazol-3-yl)-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl)-3-(2-methoxyethoxy)benzene | N1N=C(N=C1)C=1C=C(C(=C(C1)C1OCCCC1)C1=NNC2=CC=CC=C12)OCCOC | C23H25N5O3
